US08541421B2
4,5-Dimethyl-2-(methylamino)thiophene-3-carbonitrile
Prepared as in Example 21b from 2-amino-4,5-dimethylthiophene-3-carbonitrile and methyl iodide.

reactant | 2-amino-4,5-dimethylthiophene-3-carbonitrile | NC=1SC(=C(C1C#N)C)C | C7H8N2S
reactant | methyl iodide | CI | CH3I
product | 4,5-Dimethyl-2-(methylamino)thiophene-3-carbonitrile | CC=1C(=C(SC1C)NC)C#N | C8H10N2S
